US08541414B2
Ethyl 2-[2-(2,6-diethyl-4-methylphenylacetyl)-2-methylhydrazono]propanoate (Compound VI-2)
1.5 g of potassium carbonate was added to a solution of 2.0 g of ethyl 2-(methylhydrazono)propanoate in 35 mL of acetonitrile. The mixture was stirred under cooling with ice, to which a solution of 2.6 g of 2,6-diethyl-4-methylphenylacetyl chloride in 10 mL of acetonitrile was added dropwise over about 20 minutes. The resulting mixture was further stirred for 3.5 hours at room temperature, and then concentrated under reduced pressure. To the residue obtained was added 20 mL of ice-water, which was extracted with ethyl acetate (20 mL×3). The extracts were combined, washed with a saturated sodium chloride aqueous solution (20 mL×2), dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue obtained was subjected to basic alumina column chromatography (ethyl acetate:hexane=1:3 as eluent) to yield 1.9 g of the title compound as white crystals.

reactant | potassium carbonate | 1.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 2-(methylhydrazono)propanoate | 2.0 g | CNN=C(C(=O)OCC)C | C6H12N2O2
reactant | 2,6-diethyl-4-methylphenylacetyl chloride | 2.6 g | C(C)C1=C(C(=CC(=C1)C)CC)CC(=O)Cl | C13H17ClO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 35 mL | C(C)#N | C2H3N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | hexane | CCCCCC | C6H14
product | Ethyl 2-[2-(2,6-diethyl-4-methylphenylacetyl)-2-methylhydrazono]propanoate | 1.9 g | C(C)C1=C(C(=CC(=C1)C)CC)CC(=O)N(N=C(C(=O)OCC)C)C | C19H28N2O3
